US08003692B2
3-Thiophen-2-yl-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and 2-thiophene boronic acid according to the general procedure described for the Suzuki coupling. The product was purified by passing the product through a small silica gel plug eluting with methylene chloride and recrystallization from hexanes and ethyl acetate to yield a pale yellow crystalline solid (125 mg, 83%). 1H NMR (CDCl3, 300 MHz): δ 7.42 (d, J=5.4 Hz, 1H), 7.36 (d, J=3.3 Hz, 1H), 7.08 (t, J=3.9 Hz, 1H), 6.41 (s, 1H), 2.79 (t, J=6.3 Hz, 2H), 2.46 (t, J=6.3 Hz, 2H), 2.14 (quintet, J=6.3 Hz, 2H). 13C NMR (CDCl3, 75 MHz): δ 199.2, 152.3, 142.6, 128.7, 128.2, 127.2, 122.7, 37.3, 28.1, 22.5. LCMS (ESI): mass calcd for (C10H10OS) m/z 178.05; measured [M+H]+: m/z 179.04.

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | 2-thiophene boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 3-Thiophen-2-yl-cyclohex-2-enone | 125 mg, 83% | S1C(=CC=C1)C1=CC(CCC1)=O | C10H10OS
